2169-02-23 07:53:00 Physician Resident Progress Note
Chief Complaint: Emergent dialysis
   24 Hour Events:
   [**2169-2-22**]:
   -HD line placed and CRRT started
   -flagyl / azithro added to broaden coverage
   -PA catheter placed- O2 sats without step up, CO around 7-8L/min
   -A line replaced over wire
   -Levophed weaned off temporarily but restarted at 2 a.m.
   -IVF bolus prn low UOP or hypotension, total 8 L IVF boluses since
   admission
   -ET tube advanced 2cm with plan to repeat CXR in a.m.
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2169-2-22**] 07:00 PM
   Metronidazole - [**2169-2-23**] 12:00 AM
   Azithromycin - [**2169-2-23**] 02:00 AM
   Piperacillin - [**2169-2-23**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   Norepinephrine - 0.28 mcg/Kg/min
   Other ICU medications:
   Meperidine (Demerol) - [**2169-2-22**] 07:32 PM
   Lorazepam (Ativan) - [**2169-2-22**] 07:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-23**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 35.6
C (96
   Tcurrent: 35.6
C (96
   HR: 94 (90 - 112) bpm
   BP: 90/47(61) {90/43(59) - 133/55(77)} mmHg
   RR: 20 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 4 (-24 - 19)mmHg
   PAP: (30 mmHg) / (10 mmHg)
   CO/CI (CCO): (4.9 L/min) / ()
   SvO2: 86%
   Mixed Venous O2% Sat: 81 - 97
   Total In:
                                                                  7,452 mL
                                                                  4,612 mL
   PO:
   TF:
   IVF:
                                                                  7,158 mL
                                                                  4,612 mL
   Blood products:
                                                                    294 mL
   Total out:
                                                                    504 mL
                                                                  1,701 mL
   Urine:
                                                                    375 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,948 mL
                                                                  2,911 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.26/42/196/18/-7
   Ve: 10.1 L/min
   PaO2 / FiO2: 490
   Physical Examination
   GENERAL:  resting comfortably, on ventilator
   HEENT:  edematous conjunctiva
   CARDIAC:  unable to hear S2, tachycardic and regular, no thrill or
   murmur
   LUNG: CTAB anteriorly, difficult to hear over ventilator sounds.
   ABDOMEN:  soft, NT, ND, no masses or organomegaly, colostomy
   EXT:  cool, mottled, no edema
   Labs / Radiology
   169 K/uL
   10.4 g/dL
   121 mg/dL
   6.5 mg/dL
   18 mEq/L
   4.3 mEq/L
   73 mg/dL
   111 mEq/L
   141 mEq/L
   30.8 %
   13.3 K/uL
        [image002.jpg]
                             [**2169-2-22**]  07:00 PM
                             [**2169-2-22**]  07:23 PM
                             [**2169-2-22**]  09:57 PM
                             [**2169-2-22**]  10:37 PM
                             [**2169-2-22**]  10:48 PM
                             [**2169-2-23**]  01:11 AM
                             [**2169-2-23**]  02:34 AM
                             [**2169-2-23**]  02:56 AM
   WBC
   13.8
   15.0
   13.3
   Hct
   32.3
   31
   30.5
   30.8
   Plt
   145
   200
   169
   Cr
   11.7
   6.5
   TropT
   0.98
   2.09
   TCO2
   14
   14
   19
   20
   Glucose
   169
   121
   Other labs: PT / PTT / INR:12.3/31.5/1.0, CK / CKMB /
   Troponin-T:722/66/2.09, Lactic Acid:0.5 mmol/L, Ca++:7.8 mg/dL,
   Mg++:1.2 mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
   73 yoM w/ a h/o COPD (mild) presenting with feeling unwell, chest pain
   and shock.
   #  Shock: Possibly related to sepsis given leukocytosis and rigors.
   Most likely source remains pneumonia.  Patient
s PCWP elevated with
   slight decreased response to excessive fluids after 9 L.  Maintaining
   excellent oxygenation.  Will continue fluid bolus with close monitoring
   of CO.  Continue levophed as needed to maintain MAP and ScvO2.
   -send u/a, obtain CXR, blood cultures
   -empiric vanc, zosyn, azithromycin, flagyl IVF and levophed for
   hemodynamic support
   -send random cortisol
   -obtain echo to r/o R heart failure or tamponade
   -continue Vigeleo for CO monitoring
   -s/p cath without obstructive lesion
   -place SWAN to get a better idea of cardiac output with thermodilution,
   send O2 sats to evaluate for step up lesion given that the patient has
   anterior Q waves / STE and could have had a missed STEMI and resulting
   VSD, unlikely but a possibility given this patient's confusing
   presentation of shock.
   - f/u random cortisol level
   - check vancomycin level this pm
   - Abdominal ultrasound to evaluate for biliary source of sepsis.
   - Consider CT torso without contrast pending results of ultrasound or
   echo
    # Renal Failure:  Unclear history of chronic kidney disease now  with
   exacerbation in the setting of shock .  Continue aggressive hemodynamic
   management.
   - continue to monitor UOP
   - continue CVVH
   -  renal ultrasound today
   - check calcium to evaluate for citrate toxicity
   # Respiratory failure: related to mental status depression with shock.
   Oxygenation and peak pressures not currently suggesting ARDS.
   -ARDS net ventilation
   - repeat ABG
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin SQ to started., bowel regimen
   # ACCESS: PIV  x 2, R IJ swan, R art line, L fem HD cath
   # CODE:  FULL
   # CONTACT:  Wife
   # ICU CONSENT: signed
   # DISPO: ICU
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   Overnight, remains vasopressor-dependent but perfusion improved.
   T: 95    P:  104    BP: 102/52     Oxygen Saturation:  100   %  on
   mechanical ventilation with Fio2 of  .4  and PEEP of 5
   General: Intubated, sedated
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: Mottling has improved, no edema
   Labs: reviewed and as above
   CXR: Endotracheal tube is in good position, upper lobe infiltrate and
   likely RML infiltrate
   Assessment:
   1)      Shock
 Physiology plus hypothermia/elevated WBC most
   consistent with septic shock.  In terms of source, the most likely is
   pneumonia but the chest radiograph is not overly impressive and given
   the severity of his illness, I believe that evaluating other sources
   with a CT of the torso is necessary.
   2)      Acute Respiratory Failure
   3)      Acute on Chronic Renal Failure
   4)
   Plan:
   1)      Continue broad-spectrum antibiotics
   2)      ECHO for function, evaluation of right heart but also to rule
   out endocarditis
   3)      Bedside ultrasound of the kidneys and gallbladder
   4)      If ECHO and ultrasound unrevealing in terms of source of
   sepsis, will check CT scan of torso
   5)      Continue resuscitation as dictated by perfusion endpoints
   6)      Check cortisol level
   Addendum: ECHO with no vegetations and mildly depressed LV, US
   negative, and CT scan consistent with pneumonia and no other sources of
   sepsis identified.  Cortisol level 12.  Will provide hydrocortisone and
   continue anbx for pneumonia.
   Time Spent: 90 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2169-2-23**] 11:07 PM ------

2169-02-24 07:23:00 Physician Resident Progress Note
Chief Complaint: chest pain
   24 Hour Events:
   --GNRs and GPC's in sputum gram stain
   --tachy to 180's and hypotensive to 70's. Gave 6mg adenosine and
   transitioned from levophed to neo. HR went down to low 100's and BP
   stabilized with MAPs in 70's.
   --pulled SWAN out
   --hypotensive to MAPs in 50's, started hydrocort, bolused 1L, increased
   neo. pressure stablizes with SBP's 110's. HR in 60's
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Metronidazole - [**2169-2-23**] 09:00 AM
   Vancomycin - [**2169-2-23**] 08:08 PM
   Azithromycin - [**2169-2-24**] 02:08 AM
   Piperacillin - [**2169-2-24**] 06:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Phenylephrine - 1.5 mcg/Kg/min
   Dopamine - 3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-2-23**] 09:00 AM
   Fentanyl - [**2169-2-23**] 01:00 PM
   Adenosine - [**2169-2-23**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2169-2-23**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-24**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 38.3
C (101
   Tcurrent: 37.1
C (98.8
   HR: 53 (53 - 172) bpm
   BP: 112/55(74) {81/45(59) - 137/69(92)} mmHg
   RR: 18 (18 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
    CVP: 6 (4 - 11)mmHg
   PAP: (42 mmHg) / (15 mmHg)
   CO/CI (CCO): (5.1 L/min) / ()
   SvO2: 80%
   Total In:
                                                                 13,267 mL
                                                                  1,709 mL
   PO:
   TF:
   IVF:
                                                                 12,757 mL
                                                                  1,709 mL
   Blood products:
   Total out:
                                                                  3,972 mL
                                                                    600 mL
   Urine:
                                                                  1,460 mL
                                                                    300 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  9,295 mL
                                                                  1,109 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.43/34/158/20/0
   Ve: 9.5 L/min
   PaO2 / FiO2: 395
   Physical Examination
   GENERAL:  resting comfortably, on ventilator
   HEENT:  edematous conjunctiva
   CARDIAC:  unable to hear S2, tachycardic and regular, no thrill or
   murmur
   LUNG: CTAB anteriorly, difficult to hear over ventilator sounds.
   ABDOMEN:  soft, NT, ND, no masses or organomegaly, colostomy
   EXT:  cool, mottled, no edema
   Labs / Radiology
   113 K/uL
   9.3 g/dL
   156 mg/dL
   3.2 mg/dL
   20 mEq/L
   3.8 mEq/L
   31 mg/dL
   107 mEq/L
   136 mEq/L
   26.4 %
   10.6 K/uL
        [image002.jpg]
                             [**2169-2-23**]  02:56 AM
                             [**2169-2-23**]  10:01 AM
                             [**2169-2-23**]  10:23 AM
                             [**2169-2-23**]  12:55 PM
                             [**2169-2-23**]  05:07 PM
                             [**2169-2-23**]  05:26 PM
                             [**2169-2-23**]  10:18 PM
                             [**2169-2-23**]  10:29 PM
                             [**2169-2-24**]  03:43 AM
                             [**2169-2-24**]  03:57 AM
   WBC
   10.6
   Hct
   26.4
   Plt
   113
   Cr
   4.5
   3.6
   3.2
   3.2
   TCO2
   20
   22
   24
   26
   23
   Glucose
   120
   116
   106
   97
   156
   Other labs: PT / PTT / INR:12.3/31.5/1.0, CK / CKMB /
   Troponin-T:722/66/2.09, Lactic Acid:1.1 mmol/L, Ca++:7.3 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   73 yoM w/ a h/o COPD presenting with chest pain and devloped septic
   shock.
   # Septic Shock: CT Torso indicated RUL consolidation and LUL ground
   glass opacity. ECHO neg for vegetations. Hemodyncamically stable on
   neosynephrine overnight.
   -repeat sputum cx
   -cont empiric abx: Pip-Tazo/Azithro/Vanco
   -given random [**Last Name (un) **] of 12, started hydrocortisone 100mg Q8- continue
   today and plan to taper tomorrow
   -continue Vigeleo for CO monitoring
   -f/u am vanco trough and dose accordingly
   -d/c IVF and favor pressors over volume given slow decrease in cardiac
   index
   .
   # PNA: Sputum gram stain with 2+ GNRs and GPCs
   -cont Pip-Tazo/Azithro/Vanco
   -Remains stable on current vent settings
    # Renal Failure:  Unclear history of chronic kidney disease now  with
   exacerbation in the setting of shock .  DC'd CVVH last night- continue
   to monitor off of CVVH.
   -baseline Cr 2.0 per his outpt nephrologist Dr. [**Last Name (STitle) 11528**] [**Telephone/Fax (1) 11529**]
   -cont monitor I/O
   -f/u renal recs
   .
   # Respiratory failure: related to mental status depression with shock.
   Resp status stable on FiO2 40 and PEEP 5.
   -consider extubation when hemodynamically stablilizes
   -spontaneous breathing
   .
   # FEN: IVFs / replete lytes prn / NPO
   # PPX: PPI, heparin SQ to started., bowel regimen
   # ACCESS: PIV  x 2, R cortis, R art line, L fem HD cath
   # CODE:  FULL
   # CONTACT:  Wife
   # ICU CONSENT: signed
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2169-2-22**] 07:32 PM
   20 Gauge - [**2169-2-22**] 07:32 PM
   Cordis/Introducer - [**2169-2-22**] 07:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   Overnight, had run of SVT this morning and cardioverted without
   incident, CT scan consistent with pneumonia  and no other etiologies
   noted
   Tm: 101 Tc: 98.8    P: 104    BP: 112/52     Oxygen Saturation:  100
   %  on mechanical ventilation with Fio2 of  .4  and PEEP of 5
   General: Intubated, sedated
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: Mottling has improved, no edema
   Labs: reviewed and as above
 Cortisol 12
   Sputum: pending
   CT scan: upper and lower lobe infiltrates
   Assessment:
   1)      Septic Shock
 CT torso helped confirm diagnosis yesterday by
   confirming infiltrates and ruling out other etiologies.
   2)      Acute Respiratory Failure
   3)      Acute on Chronic Renal Failure
   4)      Relative Adrenal Insufficiency
   Plan:
   1)      Continue broad-spectrum antibiotics for pneumonia
   2)      Will discontinue standing fluids and follow perfusion endpoints
   with regards to more fluids or consideration of diuresis
   3)      Continue hydrocortisone
   4)      Change to pressure support ventilation
   Addendum: Required cardioversion twice during rounds for SVT.  Patient
   cardioverted without complication.
   Time Spent: 90 minutes
   Patient is critically ill

2169-02-25 06:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2169-2-24**] 08:00 AM
 CARDIOVERSION/DEFIBRILLATION - At [**2169-2-24**] 09:03 AM
   converted to NS with 100 J
 CARDIOVERSION/DEFIBRILLATION - At [**2169-2-24**] 10:30 AM
   converted to NS with 100 J
 SPUTUM CULTURE - At [**2169-2-24**] 12:30 PM
 STOOL CULTURE - At [**2169-2-24**] 03:07 PM
 INVASIVE VENTILATION - STOP [**2169-2-24**] 03:43 PM
 CARDIOVERSION/DEFIBRILLATION - At [**2169-2-24**] 04:30 PM
   premed with 25mcg fentanyl, synch cardioversion with 100j, converted to
   NSR 1 minute after shock
   [**2169-2-24**]:
   -- patient continued on neo for hypotension
   -- return of SVT requiring cardioversion x 3 throughout morning
   -- EP service consulted recommended starting amiodarone 1 mg/min x 6
   hours and 0.5 mg/min x 18 hr for management of afib/atach
   -- extubated
   -- confusion persists but patient conversant and oriented
   -- restarted a + a nebs
   -- patient placed in isolation for TB rule out given suspicious lesions
   on CT chest
   -- given single dose zyprexa po for insomnia and mild agitation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2169-2-23**] 09:00 AM
   Azithromycin - [**2169-2-24**] 02:08 AM
   Vancomycin - [**2169-2-24**] 03:50 PM
   Piperacillin - [**2169-2-24**] 09:48 PM
   Infusions:
   Phenylephrine - 1.5 mcg/Kg/min
   Amiodarone - 1 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2169-2-24**] 08:00 AM
   Midazolam (Versed) - [**2169-2-24**] 10:27 AM
   Heparin Sodium (Prophylaxis) - [**2169-2-24**] 04:00 PM
   Fentanyl - [**2169-2-24**] 04:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   + central abdominal pain
   Flowsheet Data as of  [**2169-2-25**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 62 (52 - 159) bpm
   BP: 140/71(97) {68/40(51) - 140/71(97)} mmHg
   RR: 17 (8 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,430 mL
                                                                    351 mL
   PO:
             TF:
   IVF:
                                                                  3,430 mL
                                                                    351 mL
   Blood products:
   Total out:
                                                                  1,258 mL
                                                                     90 mL
   Urine:
                                                                    758 mL
                                                                     90 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                  2,172 mL
                                                                    262 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 809 (0 - 809) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 10
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 6 cmH2O
   Plateau: 17 cmH2O
   Compliance: 49.1 cmH2O/mL
   SpO2: 96%
   ABG: 7.38/34/62/19/-3
   Ve: 6.8 L/min
   PaO2 / FiO2: 62
   Physical Examination
   GENERAL:  awake, alert, off ventilator, conversant, confjused
   HEENT:  edematous conjunctiva
   CARDIAC:  unable to hear S2, tachycardic and regular, no thrill or
   murmur
   LUNG:  course breath sounds bilaterally, no wheezes, + rhonchi.
   ABDOMEN:  soft, NT, ND, no masses or organomegaly, colostomy
   EXT:  warm, bilateral nonpitting edema
   Labs / Radiology
   139 K/uL
   9.1 g/dL
   163 mg/dL
   3.5 mg/dL
   19 mEq/L
   3.6 mEq/L
   35 mg/dL
   105 mEq/L
   136 mEq/L
   26.9 %
   18.5 K/uL
        [image002.jpg]
                             [**2169-2-23**]  05:26 PM
                             [**2169-2-23**]  10:18 PM
                             [**2169-2-23**]  10:29 PM
                             [**2169-2-24**]  03:43 AM
                             [**2169-2-24**]  03:57 AM
                             [**2169-2-24**]  08:46 AM
                             [**2169-2-24**]  02:43 PM
                             [**2169-2-24**]  02:57 PM
                             [**2169-2-24**]  07:28 PM
                             [**2169-2-25**]  03:54 AM
   WBC
   10.6
   14.6
   18.5
   Hct
   26.4
   28.9
   26.9
   Plt
   113
   151
   139
   Cr
   3.2
   3.2
   3.5
   3.5
   TropT
   1.83
   TCO2
   24
   26
   23
   23
   24
   21
   Glucose
   97
   156
   141
   163
   Other labs: PT / PTT / INR:11.9/31.5/1.0, CK / CKMB /
   Troponin-T:422/17/1.83, Lactic Acid:1.1 mmol/L, Ca++:7.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CARDIAC DYSRHYTHMIA OTHER
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   73 yoM w/ a h/o COPD presenting with chest pain and devloped septic
   shock.
   # Septic Shock: CT Torso indicated RUL consolidation and LUL ground
   glass opacity. ECHO neg for vegetations. Hemodyncamically stable on
   neosynephrine overnight.   Patient remains afebrile but leukocytosis
   continues to increase.
   -repeat sputum cx with AFB smear
   -continue airborn precautions until three negative sputum AFB smears
   -cont empiric abx: Pip-Tazo/Azithro/Vanco for pneumonia (day #1
   [**2169-2-22**])
   -start steroid taper today
   -discontinue Vigeleo for CO monitoring as it does not appear to be
   accurate.
   -f/u pm vanco trough and dose accordingly
   -d/c IVF and favor pressors over volume given slow decrease in cardiac
   index
   .
   # PNA: Sputum gram stain with 2+ GNRs and GPCs
   -cont Pip-Tazo/Azithro/Vanco
   -continue TB rule out given appearance of cavitary lung lesion on CT
   -patient remains afebrile
    # Renal Failure:  Unclear history of chronic kidney disease now  with
   exacerbation in the setting of shock .  DC'd CVVH [**2169-2-23**] continue to
   monitor off of CVVH.
   - good UOP overnight
   -baseline Cr 2.0 per his outpt nephrologist Dr. [**Last Name (STitle) 11528**] [**Telephone/Fax (1) 11529**]
   -cont monitor I/O
   -f/u renal recs
   .
   # Respiratory failure: Patient extubated yesterday.  Doing well on 5 L
   NC.  Currently able to protect his airway and maintain oxygenation.
   - continue scheduled nebs
   - titrate oxygen to goal of 89%- 93%
   .
   # FEN: IVFs / replete lytes prn / NPO until Speech and Swallow recs
   # PPX: PPI, heparin SQ to started., bowel regimen
   # ACCESS: PIV  x 2, R cortis, R art line, L fem HD cath
   # CODE:  FULL
   # CONTACT:  Wife
   # ICU CONSENT: signed
   # DISPO: ICU

2169-02-25 11:14:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   73M with COPD, CKD (baseline cr 2.0), admitted w/ septic shock and resp
   failure due to pneumonia, with LAD coronary vasospasm suspected at OSH
   at cath (had regional STE on ECG), extubated yesterday and doing well,
   though several episodes of SVT started on amio by cards:
   24 Hour Events:
   - extubated yesterda
   - started on amio for recurrent SVT yesterday (cards consult)
   - improving mental status after extubation
   - unreliable a-line tracing but on/off phenyleph
   - abd pain this am
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2169-2-23**] 09:00 AM
   Azithromycin - [**2169-2-24**] 02:08 AM
   Vancomycin - [**2169-2-24**] 03:50 PM
   Piperacillin - [**2169-2-25**] 06:00 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2169-2-24**] 04:00 PM
   Fentanyl - [**2169-2-24**] 04:32 PM
   Other medications:
   phenyl, sqh, ptotonix, vanco 1q24, azithro, hydrocort 100 q8, pip,
   thiamine, amio gtt,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Dyspnea
   Gastrointestinal: Abdominal pain
   Endocrine: No(t) Hyperglycemia
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: [**2-9**] Mild
   Pain location: abdomen
   Flowsheet Data as of  [**2169-2-25**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.3
C (95.6
   HR: 67 (52 - 92) bpm
   BP: 145/94(116) {87/40(59) - 145/94(116)} mmHg
   RR: 14 (8 - 20) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,430 mL
                                                                    581 mL
   PO:
             TF:
   IVF:
                                                                  3,430 mL
                                                                    581 mL
   Blood products:
   Total out:
                                                                  1,258 mL
                                                                    590 mL
   Urine:
                                                                    758 mL
                                                                    590 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                  2,172 mL
                                                                     -9 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 809 (0 - 809) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 10
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 6 cmH2O
   Plateau: 17 cmH2O
   Compliance: 49.1 cmH2O/mL
   SpO2: 93%
   ABG: 7.38/34/62/19/-3
   Ve: 6.8 L/min
   PaO2 / FiO2: 155
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: Pupils dilated
   Head, Ears, Nose, Throat: No(t) Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: No(t) Symmetric), (Breath Sounds:
   Clear : [**Last Name (un) 1218**])
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   139 K/uL
   163 mg/dL
   3.5 mg/dL
   19 mEq/L
   3.6 mEq/L
   35 mg/dL
   105 mEq/L
   136 mEq/L
   26.9 %
   18.5 K/uL
        [image002.jpg]
                             [**2169-2-23**]  05:26 PM
                             [**2169-2-23**]  10:18 PM
                             [**2169-2-23**]  10:29 PM
                             [**2169-2-24**]  03:43 AM
                             [**2169-2-24**]  03:57 AM
                             [**2169-2-24**]  08:46 AM
                             [**2169-2-24**]  02:43 PM
                             [**2169-2-24**]  02:57 PM
                             [**2169-2-24**]  07:28 PM
                             [**2169-2-25**]  03:54 AM
   WBC
   10.6
   14.6
   18.5
   Hct
   26.4
   28.9
   26.9
   Plt
   113
   151
   139
   Cr
   3.2
   3.2
   3.5
   3.5
   TropT
   1.83
   TCO2
   24
   26
   23
   23
   24
   21
   Glucose
   97
   156
   141
   163
   Other labs: PT / PTT / INR:11.9/31.5/1.0, CK / CKMB /
   Troponin-T:422/17/1.83, Lactic Acid:1.1 mmol/L, Ca++:7.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   73M with COPD, CKD (baseline cr 2.0), admitted w/ septic shock and resp
   failure due to pneumonia, with LAD coronary vasospasm suspected at OSH
   at cath (had regional STE on ECG), extubated yesterday and doing well,
   though several episodes of SVT requiring cardioversion yesterday, now
   started on amio by cards recommendations.
   For his hypotension and sepsis, he will continue to receive IV
   antibiotics for PNA. Start rapid taper of steroids. Pressor requirement
   is resolving.
   The abdominal pain is puzzling. Will monitor for now and check urine
   culture and c.diff, esp in light of leukocytosis.
   Need to remove the groin line if HD is no longer needed.
   For delirium, will continued antipsychotics.
   ICU Care
   Nutrition:  swallow eval
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2169-2-22**] 07:32 PM
   Cordis/Introducer - [**2169-2-22**] 07:41 PM
   Dialysis Catheter - [**2169-2-24**] 08:00 AM
   20 Gauge - [**2169-2-24**] 04:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2169-02-26 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2169-2-25**] 12:00 PM
   -hypotension in early evening requiring 500cc bolus x 2
   -acute delerium / visual hallucinations (seeing gremlins) and trying to
   get out of bed, associated with hypoxia to the low 70s on 2L, improved
   to 85% with FiO2 50%, improved to 98% with non rebreather.  halol 1mg
   IV without effect.  5mg IV valium improved delerium and 10mg IV lasix
   given for SOB (19L + and bibasilar rales, CXR appears more volume
   overloaded than previous although prior study was while intubated)
   -acute delerium / agitation recurs associated w/  hypoxia, improved w/
   valium IV
   -hydrocortisone discontinued due to psychosis
   -pressors weaned off
   -S+S consult placed
   -vanc level high, re-ordered for a..m.
   -per renal, maintain HD line for now
   -IV amio switched to 400mg po daily
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2169-2-23**] 09:00 AM
   Vancomycin - [**2169-2-24**] 03:50 PM
   Azithromycin - [**2169-2-26**] 04:18 AM
   Piperacillin - [**2169-2-26**] 05:17 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2169-2-25**] 03:27 PM
   Furosemide (Lasix) - [**2169-2-25**] 08:09 PM
   Diazepam (Valium) - [**2169-2-26**] 01:25 AM
   Haloperidol (Haldol) - [**2169-2-26**] 01:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-26**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.8
C (96.5
   HR: 62 (58 - 83) bpm
   BP: 115/67(79) {69/44(34) - 126/105(109)} mmHg
   RR: 16 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,277 mL
                                                                    465 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  2,177 mL
                                                                    465 mL
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                    310 mL
   Urine:
                                                                  1,630 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    647 mL
                                                                    155 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   GENERAL:  awake, alert, off ventilator, conversant, confjused
   HEENT:  edematous conjunctiva
   CARDIAC:  unable to hear S2, tachycardic and regular, no thrill or
   murmur
   LUNG:  course breath sounds bilaterally, no wheezes, + rhonchi.
   ABDOMEN:  soft, NT, ND, no masses or organomegaly, colostomy
   EXT:  warm, bilateral nonpitting edema
   Labs / Radiology
   120 K/uL
   8.1 g/dL
   93 mg/dL
   3.9 mg/dL
   24 mEq/L
   3.6 mEq/L
   37 mg/dL
   110 mEq/L
   142 mEq/L
   24.1 %
   13.6 K/uL
        [image002.jpg]
                             [**2169-2-23**]  10:29 PM
                             [**2169-2-24**]  03:43 AM
                             [**2169-2-24**]  03:57 AM
                             [**2169-2-24**]  08:46 AM
                             [**2169-2-24**]  02:43 PM
                             [**2169-2-24**]  02:57 PM
                             [**2169-2-24**]  07:28 PM
                             [**2169-2-25**]  03:54 AM
                             [**2169-2-25**]  04:24 PM
                             [**2169-2-26**]  04:14 AM
   WBC
   10.6
   14.6
   18.5
   13.6
   Hct
   26.4
   28.9
   26.9
   24.1
   Plt
   113
   151
   139
   120
   Cr
   3.2
   3.5
   3.5
   3.7
   3.9
   TropT
   1.83
   TCO2
   26
   23
   23
   24
   21
   Glucose
   156
   141
   163
   138
   93
   Other labs: PT / PTT / INR:11.9/31.5/1.0, CK / CKMB /
   Troponin-T:422/17/1.83, Lactic Acid:1.1 mmol/L, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CARDIAC DYSRHYTHMIA OTHER
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   73 yoM w/ a h/o COPD presenting with chest pain and devloped septic
   shock.
   # Septic Shock: CT Torso indicated RUL consolidation and LUL ground
   glass opacity. ECHO neg for vegetations. Hemodyncamically stable on
   neosynephrine overnight.   Patient remains afebrile but leukocytosis
   continues to increase.
   -repeat sputum cx with AFB smear
   -continue airborn precautions until three negative sputum AFB smears
   -cont empiric abx: Pip-Tazo/Azithro/Vanco for pneumonia (day #1
   [**2169-2-22**])
   -start steroid taper today
   -discontinue Vigeleo for CO monitoring as it does not appear to be
   accurate.
   -f/u pm vanco trough and dose accordingly
   -d/c IVF and favor pressors over volume given slow decrease in cardiac
   index
   # PNA: Sputum gram stain with 2+ GNRs and GPCs
   -cont Pip-Tazo/Azithro/Vanco
   -continue TB rule out given appearance of cavitary lung lesion on CT
   -patient remains afebrile
     # Renal Failure:  Unclear history of chronic kidney disease now  with
   exacerbation in the setting of shock .  DC'd CVVH [**2169-2-23**] continue to
   monitor off of CVVH.
   - good UOP overnight
   -baseline Cr 2.0 per his outpt nephrologist Dr. [**Last Name (STitle) 11528**] [**Telephone/Fax (1) 11529**]
   -cont monitor I/O
   -f/u renal recs
   # Respiratory failure: Patient extubated yesterday.  Doing well on 5 L
   NC.  Currently able to protect his airway and maintain oxygenation.
   - continue scheduled nebs
   - titrate oxygen to goal of 89%- 93%
   # FEN: IVFs / replete lytes prn / NPO until Speech and Swallow recs
   # PPX: PPI, heparin SQ to started., bowel regimen
   # ACCESS: PIV  x 2, R cortis, R art line, L fem HD cath
   # CODE:  FULL
   # CONTACT:  Wife
   # ICU CONSENT: signed
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2169-2-22**] 07:41 PM
   Dialysis Catheter - [**2169-2-24**] 08:00 AM
   20 Gauge - [**2169-2-24**] 04:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2169-02-26 10:25:00 Physician Attending Progress Note
Chief Complaint: septic shock, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   73M with COPD, CKD, presented with possible coronary vasospasm,
   resporatory failure and renal failure, PNA, shock, now much improved
   off pressors, extubated, with intemittent delirium and psychosis,
   possible steroid psychosis:
   24 Hour Events:
   - hallucinations overnight, no response to low dose haldol but good
   response to valium
   - steroids stopped
   - abd pain resolved
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2169-2-24**] 03:50 PM
   Azithromycin - [**2169-2-26**] 04:18 AM
   Piperacillin - [**2169-2-26**] 05:17 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2169-2-25**] 03:27 PM
   Furosemide (Lasix) - [**2169-2-25**] 08:09 PM
   Haloperidol (Haldol) - [**2169-2-26**] 01:25 AM
   Diazepam (Valium) - [**2169-2-26**] 08:00 AM
   Other medications:
   sqh, protonix, azithro, thiamine, zosyn, amion po, zyprexa, valium
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: No(t) OG / NG tube
   Nutritional Support: NPO
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Psychiatric / Sleep: Agitated, Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2169-2-26**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.3
C (95.6
   HR: 92 (58 - 92) bpm
   BP: 135/53(73) {69/44(34) - 135/105(109)} mmHg
   RR: 23 (12 - 23) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,277 mL
                                                                    589 mL
   PO:
                                                                    100 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  2,177 mL
                                                                    489 mL
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                    510 mL
   Urine:
                                                                  1,630 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    647 mL
                                                                     79 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: No(t) Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): [**Hospital1 **], [**2168**], Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   8.1 g/dL
   120 K/uL
   93 mg/dL
   3.9 mg/dL
   24 mEq/L
   3.6 mEq/L
   37 mg/dL
   110 mEq/L
   142 mEq/L
   24.1 %
   13.6 K/uL
        [image002.jpg]
                             [**2169-2-23**]  10:29 PM
                             [**2169-2-24**]  03:43 AM
                             [**2169-2-24**]  03:57 AM
                             [**2169-2-24**]  08:46 AM
                             [**2169-2-24**]  02:43 PM
                             [**2169-2-24**]  02:57 PM
                             [**2169-2-24**]  07:28 PM
                             [**2169-2-25**]  03:54 AM
                             [**2169-2-25**]  04:24 PM
                             [**2169-2-26**]  04:14 AM
   WBC
   10.6
   14.6
   18.5
   13.6
   Hct
   26.4
   28.9
   26.9
   24.1
   Plt
   113
   151
   139
   120
   Cr
   3.2
   3.5
   3.5
   3.7
   3.9
   TropT
   1.83
   TCO2
   26
   23
   23
   24
   21
   Glucose
   156
   141
   163
   138
   93
   Other labs: PT / PTT / INR:11.9/31.5/1.0, CK / CKMB /
   Troponin-T:422/17/1.83, Lactic Acid:1.1 mmol/L, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Imaging: cxr:
   Microbiology: afb neg
   cdiff neg
   ucx pending
   Assessment and Plan
   73M with COPD, CKD, presented with possible coronary vasospasm,
   resporatory failure and renal failure previoiusly on HD, PNA, shock,
   now much improved off pressors, extubated, with intermittent delirium
   and psychosis, possible steroid psychosis. This morning and overnight
   the O2 requirement is slightly higher.
   Will continue antibiotics for pneumonia and stop TB precautions.
   Leukocytosis improving now off steroids. UCx is pending but no new
   infection has been identified.
   To help with oxygenation and effusions, will try furosemide boluses.
   Because he may required HD again, will keep the HD catheter in place.
   Delirium and agitation with psychosis likely multifactorial with
   possibility of etoh withdrawal, tobacco cravings, disorientation. Will
   continue with prn benzos and standing as well as prn haloperidol and
   reassess.
   ICU Care
   Nutrition: NPO given ?aspiration, awaiting S&S
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Cordis/Introducer - [**2169-2-22**] 07:41 PM
   Dialysis Catheter - [**2169-2-24**] 08:00 AM
   20 Gauge - [**2169-2-24**] 04:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically ill